US07776857B2
Step 1: 6,7-Dimethoxycinnolin-4-ol
1-(2-Amino-4,5-dimethoxyphenyl)ethanone (105 g, 0.538 mol) was dissolved in concentrated HCl (2000 mL, 20 mol) at ambient temperature. The solution was then cooled to 0-4° C., and sodium nitrite (37.5 g, 0.543 mol) was added dropwise over 45 minutes as a solution in water (200 mL). The reaction mixture was stirred at 0-4° C. for one hour during which time it turned dark brown and became homogenous. The reaction mixture was then heated to 60-70° C. for four hours, and a yellow solid formed. After cooling the reaction mixture to 10° C., the solid was collected by filtration. The wet solid was suspended in 1500 mL of water, and the pH was adjusted to 12 with 4N NaOH to give a brown solution, followed by adjusting the pH to 7 with concentrated hydrochloric acid (78 mL). 6,7-Dimethoxycinnolin-4-ol precipitated as an off-white solid, which was filtered, washed with water (3×300 mL), and dried in a vacuum overnight at 50° C.

reactant | 1-(2-Amino-4,5-dimethoxyphenyl)ethanone | 0.538 mol, 105 g | NC1=C(C=C(C(=C1)OC)OC)C(C)=O | C10H13NO3
reactant | HCl | 20 mol, 2000 mL | Cl | ClH
reactant | sodium nitrite | 0.543 mol, 37.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 78 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 6,7-Dimethoxycinnolin-4-ol | COC=1C=C2C(=CN=NC2=CC1OC)O | C10H10N2O3
